US04985453
7.0 g of glycine ethyl ester hydrochloride was suspended in 100 ml of benzene, and 10 ml of phenylisocyanate and 8 ml of triethylamine were added thereto. The mixture was stirred for 5 hours and benzene was distilled away. Ethyl acetate was added to the residue, washed with water and brine, and dried over anhydrous sodium sulfate. Ethyl acetate was distilled away and 100 ml of 1N aqueous solution of sodium hydroxide was added to the resulting residue. The solution was stirred at 50° C. for 2 hours. Insoluble substance was filtered off and the filtrate was acidified with concentrated hydrochloric acid. The precipitated crystals were collected by filtration and recrystallized from methanol/water to give 6.8 g of phenylcarbamoylglycine.

reactant | glycine ethyl ester hydrochloride | 7.0 g | Cl.C(C)OC(CN)=O
reactant | phenylisocyanate | 10 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | triethylamine | 8 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | phenylcarbamoylglycine | 6.8 g | C1(=CC=CC=C1)NC(=O)NCC(=O)O | C9H10N2O3
